US08629167B2
3-chloro-N′-((2R,3S)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)benzohydrazide
(2R,3S)-2-(3-chloro-4-cyano-2-ethylphenylamino)-3-hydroxybutanoic acid (800 mg, 2.98 mmol), 3-Chlorobenzhydrazide (508 mg, 2.98 mmol) and anhydrous THF (40 were placed in a 100 mL round bottomed flask and the mixture was cooled to −15° C. 1-Hydroxybenzotriazole hydrate (403 mg, 2.98 mmol) was added to the mixture together with N-(3-Dimethylaminopropyl)-N′-ethylcarbodimide HCl (857 mg, 4.47 mmol) at −15° C. followed by triethylamine (0.62 mL, 4.47 mmol). The reaction mixture was maintained at −15° C. and stirred for 1 h after which, stirring continued overnight while the mixture slowly warmed to room temperature. Water (40 mL) was added to the reaction mixture followed by citric acid (4 g) while stirring. EtOAc (60 mL) was then added to the mixture and the phases were partitioned. The organic phase was then washed with saturated aqueous sodium bicarbonate (40 mL) and the organic phase dried (Na2SO4). EtOAc was removed under vacuum and replaced by chloroform (60 mL). The insoluble hydrazide was then separated from the mixture by filtration and dried under reduced pressure to furnish a white solid (855 mg, 68%). 1H NMR (500 MHz, acetone-d6, δ in ppm) 9.7 (br s, 2H), 7.96 (s, 1H), 7.83 (d, J=8.5 Hz, 1H), 7.46-7.7 (m, 2H), 6.64 (d, J=8.6 Hz, 1H), 5.3 (d, J=7 Hz, 1H), 4.19-4.03 (m, 1H), 3.98-3.87 (m, 1H), 2.35 (s, 3H) and 1.26 (d, J=6.35 Hz, 3H).

reactant | (2R,3S)-2-(3-chloro-4-cyano-2-ethylphenylamino)-3-hydroxybutanoic acid | 2.98 mmol, 800 mg | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)O)[C@H](C)O)CC | C13H15ClN2O3
reactant | 3-Chlorobenzhydrazide | 2.98 mmol, 508 mg | ClC=1C=C(C(=O)NN)C=CC1 | C7H7ClN2O
reactant | 1-Hydroxybenzotriazole hydrate | 2.98 mmol, 403 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodimide HCl | 4.47 mmol, 857 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 4.47 mmol, 0.62 mL | C(C)N(CC)CC | C6H15N
reactant | citric acid | 4 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
solvent | Water | 40 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 3-chloro-N′-((2R,3S)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)benzohydrazide | 855 mg, 68% | ClC=1C=C(C(=O)NNC([C@@H]([C@H](C)O)NC2=C(C(=C(C=C2)C#N)Cl)C)=O)C=CC1 | C19H18Cl2N4O3
